US06821967B2
9-{4-[4-(5-chloro-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide
Prepared analogously to Example 2 from 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide and 5-chloro-2-piperazin-1-yl-quinoline.

reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=C1 | C25H23BrFNO
reactant | 5-chloro-2-piperazin-1-yl-quinoline | ClC1=C2C=CC(=NC2=CC=C1)N1CCNCC1 | C13H14ClN3
product | 9-{4-[4-(5-chloro-quinolin-2-yl)-piperazin-1-yl]-butyl}-9H-fluorene-9-carboxylic acid-4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCN2CCN(CC2)C2=NC3=CC=CC(=C3C=C2)Cl)C=C1 | C38H36ClFN4O
